US07504413B2
N-((1S)-2-(D-Alanylamino)-1-{[4-(8-bromoimidazo[1,2-a]pyridin-2-yl)phenyl]methyl}ethyl)-3-chloro-4-[(1-methylethyl)oxy]benzamide
A solution of N-((1S)-2-amino-1-{[4-(8-bromoimidazo[1,2-a]pyridin-2-yl)phenyl]methyl}ethyl)-3-chloro-4-[(1-methylethyl)oxy]benzamide (0.28 mmol), N-{[(1,1-dimethylethyl)oxy]carbonyl}-D-alanine (0.56 mmol), EDCI (0.56 mmol), and TEA (1.12 mmol) stirred in methylene chloride (2 mL) at RT for 18 h. The reaction was then treated with 4 M HCl in 1,4-dioxane (2 mL) and stirred at RT for 1 h. The mixture was then concentrated in vacuo, redissolved in ethyl acetate (25 mL) and washed with saturated aqueous sodium bicarbonate solution (1×10 mL). The organic layer was concentrated in vacuo, and purification of the residue by Gilson reverse phase HPLC afforded the title product as a white solid (25%). ESMS [M+H]+: 613.2.

reactant | N-((1S)-2-amino-1-{[4-(8-bromoimidazo[1,2-a]pyridin-2-yl)phenyl]methyl}ethyl)-3-chloro-4-[(1-methylethyl)oxy]benzamide | 0.28 mmol | NC[C@H](CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2Br)C1)NC(C1=CC(=C(C=C1)OC(C)C)Cl)=O | C26H26BrClN4O2
reactant | N-{[(1,1-dimethylethyl)oxy]carbonyl}-D-alanine | 0.56 mmol | CC(C)(C)OC(=O)N[C@H](C)C(=O)O | C8H15NO4
reactant | EDCI | 0.56 mmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | HCl | 4 M | Cl | ClH
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-((1S)-2-(D-Alanylamino)-1-{[4-(8-bromoimidazo[1,2-a]pyridin-2-yl)phenyl]methyl}ethyl)-3-chloro-4-[(1-methylethyl)oxy]benzamide | 25% | N[C@H](C)C(=O)NC[C@H](CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2Br)C1)NC(C1=CC(=C(C=C1)OC(C)C)Cl)=O | C29H31BrClN5O3
